US08791132B2
2,8-Dimethyl-5-((2-(pyridin-3-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 0.6 mmol) was added to 2M dimethylamine solution in THF (5 mL) and the reaction mixture was allowed to stir at 40° C. overnight. The progress of reaction was monitored by LCMS. The solvent was removed under reduced pressure to obtain a crude oily product that was purified by reverse phase HPLC to afford 50 mg of 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-(dimethylamino)-2-(pyridin-3-yl)propan-2-ol as the TFA salt. 1H NMR (CDCl3, Free base) δ (ppm): 8.74 (s, 1H), 8.50 (d, 1H), 7.79 (d, 1H), 7.25 (dd, 1H), 7.16 (s, 1H), 7.1 (d, 1H), 6.97 (d, 1H), 4.08 (m, 2H), 3.83 (dd, 2H), 2.98 (m, 4H), 2.74 (d, 2H), 2.70 (s, 3H), 2.42 (s, 3H), 1.98 (s, 6H). Separation by chiral HPLC provided enantiomers II-265a-b.

reactant | 2,8-Dimethyl-5-((2-(pyridin-3-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.6 mmol, 200 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC2(OC2)C=2C=NC=CC2)CC1 | C21H23N3O
reactant | dimethylamine | 2M | CNC | C2H7N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-(dimethylamino)-2-(pyridin-3-yl)propan-2-ol | 50 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CN(C)C)(O)C=2C=NC=CC2)CC1 | C23H30N4O
